US05167949
d) 2-Ethoxymethyl-4(3H)-pteridinone
A solution of 30.0 g (0.146 mole) of 4-amino-2-(ethoxymethyl)pteridine in 800 ml of 5% aqueous sodium hydroxide is brought slowly to 75° C. and maintained at this temperature for 2 hours. After cooling, the solution obtained is acidified with acetic acid to pH 6 and is then extracted with chloroform. The organic extracts are dried over sodium sulphate and concentrated to dryness under reduced pressure. The solid residue is recrystallized from ethanol in the presence of Norit. Yld: 19.5 g (65%), m.p.=168°-169° C. The product is identical to that obtained in Example 1.

reactant | 4-amino-2-(ethoxymethyl)pteridine | 0.146 mole, 30.0 g | NC1=NC(=NC2=NC=CN=C12)COCC | C9H11N5O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 800 ml | [OH-].[Na+]
product | 2-Ethoxymethyl-4(3H)-pteridinone | C(C)OCC1=NC2=NC=CN=C2C(N1)=O | C9H10N4O2
